US07820802B2
To a solution obtained by adding 1,2-hydrazinedicarboxylic acid bis(2-methoxyethyl) ester (1 g, 4.23 mmol), pyridine (0.34 g, 4.23 mmol), and toluene (10 ml) to a 30 ml flask, followed by cooling with an ice bath, chlorine gas was blown for 30 minutes. After the reaction, the solution was washed with water (1 mL,×2), and dehumidified with anhydrous magnesium sulfate, followed by concentration to dryness. The solid was recrystallized with toluene (1.5 mL) and hexane (7.5 mL), to give azodicarboxylic acid bis(2-methoxyethyl) ester as a pale yellow crystal (0.59 g, yield: 60%).

reactant | 1,2-hydrazinedicarboxylic acid bis(2-methoxyethyl) ester | 4.23 mmol, 1 g | COCCOC(=O)NNC(=O)OCCOC | C8H16N2O6
reactant | pyridine | 4.23 mmol, 0.34 g | N1=CC=CC=C1 | C5H5N
reactant | chlorine | ClCl | Cl2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | azodicarboxylic acid bis(2-methoxyethyl) ester | 0.59 g, yield: 60% | COCCOC(=O)N=NC(=O)OCCOC | C8H14N2O6
